US04244961
A mixture of 3.4 g 1-oxa-3,8-diazaspiro[4.5]decan-2-one, 2.26 g 2,3-epoxypropyl-p-methoxyphenyl ether, 5 ml methanol and 15 ml toluene is heated at reflux for 24 hours. Evaporation of solvent and recrystallization from ethyl acetate gives 2.7 g 8-[3-(4-methoxyphenoxy)-2-hydroxypropyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one, mp 151°-153°. To a solution of 1 g of 8-[3-(4-methoxyphenoxy)-2-hydroxypropyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one in 5 ml methanol is added 10 ml of 3% hydrochloric acid in methanol. Addition of 200 ml diethyl ether, followed by filtration gives 8-[3-(4-methoxyphenoxy)-2-hydroxypropyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one hydrochloride, mp 198°-203°.

reactant | 1-oxa-3,8-diazaspiro[4.5]decan-2-one | 3.4 g | O1C(NCC12CCNCC2)=O | C7H12N2O2
reactant | 2,3-epoxypropyl-p-methoxyphenyl ether | 2.26 g | O1C(CC2=C(C=CC(=C2)OC)OC2=C(C=C(C=C2)OC)CC2CO2)C1 | C20H22O5
reactant | methanol | 5 ml | CO | CH4O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 8-[3-(4-methoxyphenoxy)-2-hydroxypropyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 2.7 g | COC1=CC=C(OCC(CN2CCC3(CNC(O3)=O)CC2)O)C=C1 | C17H24N2O5
